data/oMe_Silver.jsonl
{"reaction_id": "NR-244_1-C2CCCCC2_4-c2ccc(N(=O)=O)cc2","level": "easy","name": "Stork Enamine Synthesis","reactants_smiles": ["C(C2CCCCC2)(=C)N1CCCC1","C(c2ccc(N(=O)=O)cc2)Br"],"products_smiles": ["C(=O)(C2CCCCC2)CC(c2ccc(N(=O)=O)cc2)"],"conditions": "H2O","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C2CCCCC2)(=[N+]1CCCC1)CC(c2ccc(N(=O)=O)cc2)","step_weight": 0,"rationale": "The enamine's electron-rich α-carbon attacks the electrophilic carbon in the alkyl halide via SN2, favored by the good leaving ability of bromide and minimal steric hindrance at the electrophilic site."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C2CCCCC2)(N1CCCC1)(CCc2ccc(N(=O)=O)cc2)[OH2+]","step_weight": 0,"rationale": "Water, activated by the iminium's strong electrophilicity, adds to the iminium carbon due to resonance stabilization of the positive charge on nitrogen, facilitating nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C2CCCCC2)([NH+]1CCCC1)(CCc2ccc(N(=O)=O)cc2)O","step_weight": 0,"rationale": "Proton transfer from the oxonium to nitrogen relieves positive charge on oxygen, stabilizing the intermediate and preparing for C–N bond cleavage."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C2CCCCC2)(=[OH+])CC(c2ccc(N(=O)=O)cc2)","step_weight": 0,"rationale": "Elimination of the amine occurs as nitrogen's lone pair reforms, expelling it as a leaving group; the driving force is formation of the strong C=O double bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C2CCCCC2)CC(c2ccc(N(=O)=O)cc2)","step_weight": 0,"rationale": "Deprotonation of the protonated carbonyl restores neutrality, favored by the stability of the neutral ketone under aqueous conditions."}],"description": "The enamine acts as a nucleophile toward the alkyl halide via SN2, forming an iminium intermediate. Subsequent aqueous hydrolysis converts the iminium to a carbonyl through nucleophilic addition of water, proton transfers, and elimination, yielding the ketone product."}
{"reaction_id": "NR-137_1-CC_2-CCCC(C)C_3-C_4-CC","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(CC)C(=O)C(CCCC(C)C)","O=CC(C)"],"products_smiles": ["C1(C)OC(CC)C(CCCC(C)C)C(=O)C1(CC)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CCCC(C)C)C(=O)C(=C(C))(CC)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)=C(CC)C(=O)C(CCCC(C)C)C(O)(CC)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)=C(CC)C(=[OH+])C(CCCC(C)C)C(O)(CC)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C)C(CC)=C(O)C(CCCC(C)C)C(CC)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)C(CC)=C(O)C(CCCC(C)C)C(CC)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C)OC(CC)C(CCCC(C)C)C(=O)C1(CC)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
